US09107916B2
C. 2-[5-[(3-chloro-4-ethylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (3-chloro-4-ethylphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 1.23 (3H, t, J=8.0 Hz), 2.76 (2H, t, J=8.0 Hz), 5.18 (2H, s), 5.74 (1H, d, J=0.8 Hz), 7.26 (2H, s), 7.40-7.44 (2H, m), 7.57 (1H, s), 8.03 (1H, s), 8.72 (1H, d, J=4.8 Hz). [M+H] Calc'd for C18H15ClN4O, 339. Found, 339.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (3-chloro-4-ethylphenyl)methanol | ClC=1C=C(C=CC1CC)CO | C9H11ClO
product | 2-[5-[(3-chloro-4-ethylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC=1C=C(C=CC1CC)COC1=CC=NN1C1=NC=CC(=C1)C#N | C18H15ClN4O
